US07276516B2
4-[3-(Tetrahydro-pyran-4-yl)-indole-1-sulfonyl]-benzoic acid methyl ester
Add to a solution of 4-[3-(4-hydroxy-tetrahydro-pyran-4-yl)-indole-1-sulfonyl]-benzoic acid methyl ester (20.0 g, 48.19 mmol) in anhydrous methylene chloride (500 mL) at room temperature, triethylsilane (20.0 mL, 125.19 mmol) and trifluoroacetic acid (61.5 mL, 798.2 mmol). Stir the resulting solution for 1 h, concentrate, and obtain the oil and partition between ethyl acetate (500 mL) and saturated sodium bicarbonate (500 mL). Dry the organic layer over sodium sulfate, filter through a silica gel pad, and back-wash with ethyl acetate (400 mL). Concentrate the filtrate to low volume, add hexanes, and a separate the solid. Filter the solid and hold aside, 14 g. Concentrate the filtrate to low volume and add MTBE to provide a second crop of crystals, filter and found identical by TLC (3:2 hexanes/ethyl acetate) to the original lot, 2.8 g. Combine the two lots and dry (20 mmg Hg, 40° C.) to provide one lot of highly pure title compound for subsequent hydrolysis (16.8 g, 87%); 1H NMR (DMSO-d6) δ 8.10 (m, 4H), 7.93 (d, J=8.2 Hz, 1H), 7.68 (d, J=7.7 Hz, 1H), 7.57 (s, 1H), 7.37 (t, J=7.7 Hz, 1H), 7.28 (t, J=7.1 Hz, 1H), 3.94 (m, 2H), 3.85 (s, 3H), 3.50 (t, J=11.5 Hz, 2H), 3.03 (m, 1H), 1.86 (m, 2H), 1.70 (m, 2H); MS(ESI) m/z 400 (m+H).

reactant | 4-[3-(4-hydroxy-tetrahydro-pyran-4-yl)-indole-1-sulfonyl]-benzoic acid methyl ester | 48.19 mmol, 20.0 g | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1(CCOCC1)O)=O | C21H21NO6S
reactant | triethylsilane | 125.19 mmol, 20.0 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 798.2 mmol, 61.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(Tetrahydro-pyran-4-yl)-indole-1-sulfonyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1CCOCC1)=O | C21H21NO5S
